US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-dimethylaminobenzaldehyde (10 g) and 4-ethylaniline (8.12 g) as starting materials, [(4-dimethylaminophenyl)methyl](4-ethylphenyl)amine (10.7 g) was obtained. melting point: 64–66° C.

reactant | 4-dimethylaminobenzaldehyde | 10 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 4-ethylaniline | 8.12 g | C(C)C1=CC=C(N)C=C1 | C8H11N
product | [(4-dimethylaminophenyl)methyl](4-ethylphenyl)amine | 10.7 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)CC)C | C17H22N2
